US09210927B2
Preparation of Ethyl 2-amino-2-(5-bromo-3-chloropyridin-2-yl)acetate (CI60)
Ethyl 2-(diphenylmethyleneamino)acetate (10.2 g, 38.2 mmol) was added to sodium hydride (NaH; 3.18 g, 133.52 mmol) in DMF (50 mL) at 0° C., and the mixture was stirred for 30 min. To this was added 5-bromo-2,3-dichloropyridine (12.9 g, 57.23 mmol), and the reaction mixture was stirred for 3 h at ambient temperature. The reaction mixture was quenched with 2 N HCl solution and then stirred for 4 h at ambient temperature. The mixture was extracted with EtOAc. The combined EtOAc layer was washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography (20-30% EtOAc in hexane) afforded the title compound as a liquid (1.3 g, 20%): 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 7.89 (s, 1H), 5.09 (s 1H), 4.23 (m, 2H), 2.27 (br s, 2H), 1.26 (m, 3H); ESIMS m/z 293.05 ([M+H]+); IR (thin film) 3381, 3306, 1742, 759, 523 cm−1.

reactant | Ethyl 2-(diphenylmethyleneamino)acetate | 38.2 mmol, 10.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NCC(=O)OCC | C17H17NO2
reactant | sodium hydride | 133.52 mmol, 3.18 g | [H-].[Na+]
reactant | 5-bromo-2,3-dichloropyridine | 57.23 mmol, 12.9 g | BrC=1C=C(C(=NC1)Cl)Cl | C5H2BrCl2N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-amino-2-(5-bromo-3-chloropyridin-2-yl)acetate | 1.3 g, 20% | NC(C(=O)OCC)C1=NC=C(C=C1Cl)Br | C9H10BrClN2O2
